US04906634
N-[4-[3-(Diethylamino)propoxy]phenyl]methanesulfonamide
To a solution of 6.00 g (20.3 mmol) of 4-[3-(diethylamino)propoxy)benzenamine dihydrochloride in 50 mL of pyridine under a nitrogen atmosphere and cooled to ca -10° C. add 2.0 mL (25.4 mmol) of methanesulfonyl chloride dropwise. Maintain the temperature below 0° C. during the addition. Stir the reaction mixture at ambient temperature for 5 h then add 10 mL of H2O. Evaporate the solvent in vacuo and dissolve the residue in 50 mL of H2O (pH=ca. 3). Extract the aqueous solution with 2×100 mL of diethyl ether. Adjust the pH of the aqueous solution to pH=13 with 20% aqueous sodium hydroxide solution and extract this solution with 3×50 mL of methylene chloride. Adjust the pH of the aqueous solution to pH=8.5 with concentrated hydrochloric acid and saturate the solution with sodium chloride. Extract the mixture with 3×100 mL of methylene chloride. Wash the organic extracts with 25 mL of saturated aqueous sodium chloride solution, combine the extracts and dry over anhydrous sodium sulfate. Remove the drying agent by filtration and evaporate the solvent in vacuo to obtain the title compound.

reactant | 4-[3-(diethylamino)propoxy)benzenamine dihydrochloride | 20.3 mmol, 6.00 g | Cl.Cl.C(C)N(CCCOC1=CC=C(C=C1)N)CC
reactant | methanesulfonyl chloride | 25.4 mmol, 2.0 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | H2O | 10 mL | O | H2O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N-[4-[3-(Diethylamino)propoxy]phenyl]methanesulfonamide | C(C)N(CCCOC1=CC=C(C=C1)NS(=O)(=O)C)CC | C14H24N2O3S
